US06103910
a) (R)-1-[5-[(R)-2-Benzyloxycarbonyl-pyrrolidine-1-carbonyl]-furan-2-carbonyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 2.0 g (8.2 mmol) D-Proline benzyl ester hydrochloride and 640 mg (4.1 mmol) furan-2,5-dicarboxylic acid afforded, after flash chromatography (EtOAc), 1.7 g (78%) of the title compound as a yellow oil.

reactant | D-Proline benzyl ester hydrochloride | 8.2 mmol, 2.0 g | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | furan-2,5-dicarboxylic acid | 4.1 mmol, 640 mg | O1C(=CC=C1C(=O)O)C(=O)O | C6H4O5
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-1-[5-[(R)-2-Benzyloxycarbonyl-pyrrolidine-1-carbonyl]-furan-2-carbonyl]-pyrrolidine-2-carboxylic acid benzyl ester | 1.7 g, 78% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(=O)C=1OC(=CC1)C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1 | C30H30N2O7
